2106-05-11 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2106-5-10**] 08:33 AM
   Blood cx - GPC in clusters
   Ethics consulted
   Levophed d/c'd
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-11**] 02:17 AM
   Metronidazole - [**2106-5-11**] 02:30 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-5-10**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-10**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-11**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.2
C (97.1
   HR: 74 (68 - 91) bpm
   BP: 76/46(53) {0/0(0) - 0/0(0)} mmHg
   RR: 28 (24 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
    CVP: 21 (8 - 293)mmHg
   Total In:
                                                                  4,539 mL
                                                                    382 mL
   PO:
   TF:
   IVF:
                                                                  1,030 mL
                                                                    382 mL
   Blood products:
                                                                      8 mL
   Total out:
                                                                  1,260 mL
                                                                    230 mL
   Urine:
                                                                  1,260 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,279 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 194
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.47/38/139/25/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   451 K/uL
   9.4 g/dL
   92 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.2 mEq/L
   42 mg/dL
   114 mEq/L
   147 mEq/L
   27.9 %
   25.5 K/uL
        [image002.jpg]
                             [**2106-5-9**]  10:10 PM
                             [**2106-5-10**]  12:59 AM
                             [**2106-5-10**]  02:25 AM
                             [**2106-5-10**]  04:19 PM
                             [**2106-5-11**]  03:47 AM
                             [**2106-5-11**]  04:14 AM
   WBC
   33.0
   29.7
   25.5
   Hct
   24.9
   25.8
   27.9
   Plt
   [**Telephone/Fax (3) 5460**]
   Cr
   0.7
   0.6
   0.5
   TropT
   0.48
   0.38
   0.27
   TCO2
   24
   25
   28
   Glucose
   159
   102
   92
   Other labs: PT / PTT / INR:13.9/51.8/1.2, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:96.0 %, Lymph:2.5 %, Mono:1.3
   %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P: [**Age over 90 **]F p/w resp distress and possible aspiration, intubated for resp
   failure, with hypotension and impressive leukocytosis concerning for
   sepsis.
   .
   # Resp failure: Pt has hx aspiration PNA requiring intubation in [**12-19**].
   CT chest concerning for multifocal PNA.
   - Broad spectrum abx: vanco/levaquin/zosyn
   - Suctioning by RT
   - ARDSnet ventilation with low tidal volumes
   - Place a-line and follow ABGs
   .
   # Leukocytosis: Infection vs inflammatory response to aspiration event.
   Possible sources include lung vs abdomen vs decubiti. The degree of
   leukocytosis is impressive, with a bandemia.
   - Cultures: blood, urine, wound, sputum
   - Resuscitate, follow lactate
   - Send c diff, pt is from NH
   - Broad spectrum abx, including Flagyl
   .
   # Elevated troponin: EKG shows no evidence of STEMI, but NSST-T
   changes. CK flat. Possible NSTEMI.
   - Rectal ASA
   - TTE tomorrow
   - repeat EKG now
   .
   # Lactic acidosis: Lacate 4.7 in ED. DDx includes sepsis vs related to
   increased work of breathing.
   - Trending down to 3.6 after IVF and intubation
   - Cultures
   - Send c-diff
   - Fluid boluses for MAP<65, UOP<30cc/hr
   - CVP 10-12
   - Pressors to keep MAP>65
   - ABX: Vanc/zosyn/levaquin + Flagyl
   .
   # Possible Partial SBO: Seen on CT abdomen.
   - Unable to place NGT given head position
   - Gen [**Doctor First Name 91**] aware, recommend G-tube to gravity, no transition point, pt
   would not be surgical candidate
   - Adding Flagyl
   .
   # Wound: Pt with large buttock decubiti, with frank purulence from
   wound.
   - Cx and gram stain sent
   - Continue abx
   - Plastics consult in the AM since collection is adequately draining
   spontaneously at this time, no emergent debridement needed
   .
   # Hx AFIB: On amio at home.
   - Elimination of amio is long so will hold on dosing for tonight,
   consider switch to IV amio if NPO for prolonged period
   .
   # PPx: Boots, subq heparin, VAP bundle, PPI
   .
   # Code status: FULL
   .
   # Communication: Contact - Dr. [**First Name8 (NamePattern2) 2006**] [**Last Name (NamePattern1) 2138**], [**Telephone/Fax (1) 2139**] (cell [**Telephone/Fax (1) 5438**]) - schedule family meeting tomorrow
   .
   # Dispo: ICU
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2106-5-10**] 01:04 AM
   Arterial Line - [**2106-5-10**] 01:27 AM
   Prophylaxis:
   DVT:  Boots, hep sq
   Stress ulcer:  PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-5-10**] 01:00 AM
   Multi Lumen - [**2106-5-10**] 01:04 AM
   Arterial Line - [**2106-5-10**] 01:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2106-05-12 07:24:00 Physician Resident Progress Note
Chief Complaint: Sepsis, respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2106-5-11**] 09:52 AM
   a-line
 BLOOD CULTURED - At [**2106-5-11**] 10:21 AM
   venipuncture
 NASAL SWAB - At [**2106-5-11**] 01:35 PM
   MRSA screen
   KUB- no obs
   Ethics- agree with non aggressive goals of care, may need guardian
   repleted K+
   increased free H2O for Na 149
   got bolus for hotn, good response, CVP 15
   increased PS to 12, gas better 7.48/36/105
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2106-5-11**] 02:30 AM
   Vancomycin - [**2106-5-11**] 08:32 AM
   Levofloxacin - [**2106-5-11**] 05:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-12**] 02:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-11**] 08:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-12**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 64 (64 - 80) bpm
   BP: 76/46(53) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (21 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
    CVP: 11 (11 - 21)mmHg
   Total In:
                                                                  2,121 mL
                                                                  1,432 mL
   PO:
   TF:
   IVF:
                                                                  2,061 mL
                                                                  1,432 mL
   Blood products:
   Total out:
                                                                    624 mL
                                                                    239 mL
   Urine:
                                                                    624 mL
                                                                    239 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,497 mL
                                                                  1,193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 325 (281 - 325) mL
   PS : 15 cmH2O
   RR (Set): 25
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.48/36/105/25/3
   Ve: 8.7 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Gen: Intubated eyes open, seems to respond
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR no m/r/g
   Lungs: coarse vented breath sounds
   Abd: soft NT/ND
   Ext: warm, 2+ DP pulses, L femoral line clean and intact
   Skin: no rashes noted
   Back: deferred
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   447 K/uL
   8.6 g/dL
   132 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   28 mg/dL
   110 mEq/L
   140 mEq/L
   25.6 %
   15.6 K/uL
        [image002.jpg]
                             [**2106-5-10**]  04:19 PM
                             [**2106-5-11**]  03:47 AM
                             [**2106-5-11**]  04:14 AM
                             [**2106-5-11**]  08:39 AM
                             [**2106-5-11**]  02:22 PM
                             [**2106-5-11**]  04:38 PM
                             [**2106-5-11**]  06:42 PM
                             [**2106-5-11**]  09:05 PM
                             [**2106-5-11**]  10:18 PM
                             [**2106-5-12**]  03:31 AM
   WBC
   29.7
   25.5
   15.6
   Hct
   25.8
   27.9
   25.6
   Plt
   454
   451
   447
   Cr
   0.6
   0.5
   0.4
   0.4
   TropT
   0.38
   0.27
   TCO2
   28
   27
   27
   26
   27
   28
   Glucose
   102
   92
   96
   132
   Other labs: PT / PTT / INR:13.9/51.8/1.2, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted with sepsis and respiratory
   failure, found to have large purulent sacral decubitus ulcer now with
   GPC bacteremia.
   .
   # Sepsis:  likely [**3-15**] GPC bacteremia with most likely source being her
   large purulent sacral decubitus ulcer.  Overall improving w/current
   regimen, wbc trending down and  she has successfully weaned off of
   pressor support.  Other potential source is aspiration pneumonia given
   multifocal infiltrates on chest ct and GNR
s in sputum.
   - Blood cx with coag neg staph
   - Sputum with GNR
   -Cont Vanco, vanco level 9.5
   -Cont Zosyn/Levo to cover GNR and anaerobes
   -Flagyl D/Cd as C diff neg and no evidence of colitis on ct
   -Cont MAP>60, CVP 10-12
   -IVF prn
   -Trend WBC, fever curve
   -f/u micro
   -surveillance blood cultures daily until neg x 48 hours
   - If cultures neg x48-72hrs will peel back antibiotics
   # Resp failure: Most likely [**3-15**] sepsis vs acute aspiration.  She does
   have multifocal infiltrates on chest ct c/w aspiration pneumonia.
   -Cont vanc/zosyn/levo to cover for asp pna
   -Attempt to wean vent -> RSBI 300s currently ?past RSBIs
   -ETT care
   - A-line placed
   .
   # Possible Partial SBO: No evidence of SBO currently.  Seen on CT
   abdomen however abdomen is soft with no evidence of discomfort.
   Surgery consulted on admission, no transition point and pt not
   currently candidate for surgery.
   -Unable to place NGT given head position
   -G tube to gravity per surgery
   -f/u KUB
   # Sacral Decubitus Ulcer:  most likely source of GPC bacteremia given
   frank purulence, seen by wound consult who recommended surgical
   debridement.
   - f/u cx and gram stain
   - Continue vanc/zosyn/levo
   -Considering Plastics consult, but will hold for now as would likely
   not tolerate debridement
   # Hx AFIB: Stable
   -Cont amio.
   # Nutrition: Will re-consult for resuming TFs
   # Access: Will have PICC placed, D/C femoral line afterwards
   ICU Care
   Nutrition:
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2106-5-10**] 01:00 AM
   Multi Lumen - [**2106-5-10**] 01:04 AM
   Arterial Line - [**2106-5-10**] 01:27 AM
   Prophylaxis:
   DVT:  Hep SQ [**Hospital1 **]
   Stress ulcer: IV PPI while tube feeds being held -> will transition to
   Pos once G tube working
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code, ethics consult in place
   Disposition:ICU

2106-05-13 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2106-5-12**] 05:41 PM
 MULTI LUMEN - STOP [**2106-5-12**] 07:00 PM
   Blood cultures from [**5-9**] with coag neg staph in one set only
   Sputum culture from [**5-10**] with moderate growth of GNR from three
   colonial morphologies
   PICC line placed, femoral line removed and tip sent for culture
   She was given extra dose of vanocmycin 1g IV for low trough (however
   not yet at equilibrium) per pharmacy will dose based on level until she
   reaches steady state.
   500ml NS given this am for BP 89/35 and decrease in UO to 30 cc/hr
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2106-5-11**] 02:30 AM
   Levofloxacin - [**2106-5-11**] 05:52 PM
   Vancomycin - [**2106-5-12**] 03:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-13**] 01:44 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-5-12**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-12**] 07:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-13**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 68 (65 - 75) bpm
   BP: 76/46(53) {0/0(0) - 0/0(0)} mmHg
   RR: 27 (19 - 39) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
    CVP: 16 (15 - 16)mmHg
   Total In:
                                                                  2,980 mL
                                                                  1,010 mL
   PO:
   TF:
                                                                    157 mL
                                                                    231 mL
   IVF:
                                                                  2,524 mL
                                                                    679 mL
   Blood products:
   Total out:
                                                                    771 mL
                                                                    215 mL
   Urine:
                                                                    771 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,209 mL
                                                                    795 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 328 (305 - 328) mL
   PS : 15 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 300
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: ///24/
   Ve: 9.2 L/min
   Physical Examination
   Gen: Intubated eyes open, seems to respond
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR no m/r/g
   Lungs: coarse vented breath sounds
   Abd: soft NT/ND
   Ext: warm, 2+ DP pulses, L femoral line clean and intact
   Skin: no rashes noted
   Back: deferred
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   494 K/uL
   9.1 g/dL
   126 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.0 mEq/L
   21 mg/dL
   111 mEq/L
   142 mEq/L
   26.5 %
   16.3 K/uL
        [image002.jpg]
                             [**2106-5-11**]  04:14 AM
                             [**2106-5-11**]  08:39 AM
                             [**2106-5-11**]  02:22 PM
                             [**2106-5-11**]  04:38 PM
                             [**2106-5-11**]  06:42 PM
                             [**2106-5-11**]  09:05 PM
                             [**2106-5-11**]  10:18 PM
                             [**2106-5-12**]  03:31 AM
                             [**2106-5-12**]  03:23 PM
                             [**2106-5-13**]  03:59 AM
   WBC
   15.6
   16.3
   Hct
   25.6
   26.5
   Plt
   447
   494
   Cr
   0.4
   0.4
   0.5
   0.4
   TCO2
   28
   27
   27
   26
   27
   28
   Glucose
   96
   132
   180
   126
   Other labs: PT / PTT / INR:14.0/46.2/1.2, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted with sepsis and respiratory
   failure, found to have large purulent sacral decubitus ulcer now with
   GPC bacteremia.
   .
   # Sepsis:  likely [**3-15**] GPC bacteremia with most likely source being her
   large purulent sacral decubitus ulcer.  Overall improving w/current
   regimen, wbc trending down and  she has successfully weaned off of
   pressor support.  Other potential source is aspiration pneumonia given
   multifocal infiltrates on chest ct and GNR
s in sputum.
   - Blood cx with coag neg staph
   - Sputum with GNR
   -Cont Vanco, vanco level 9.5
   -Cont Zosyn/Levo to cover GNR and anaerobes
   -Flagyl D/Cd as C diff neg and no evidence of colitis on ct
   -Cont MAP>60, CVP 10-12
   -IVF prn
   -Trend WBC, fever curve
   -f/u micro
   -surveillance blood cultures daily until neg x 48 hours
   - If cultures neg x48-72hrs will peel back antibiotics
   # Resp failure: Most likely [**3-15**] sepsis vs acute aspiration.  She does
   have multifocal infiltrates on chest ct c/w aspiration pneumonia.
   -Cont vanc/zosyn/levo to cover for asp pna
   -Attempt to wean vent -> RSBI 300s currently ?past RSBIs
   -ETT care
   - A-line placed
   .
   # Possible Partial SBO: No evidence of SBO currently.  Seen on CT
   abdomen however abdomen is soft with no evidence of discomfort.
   Surgery consulted on admission, no transition point and pt not
   currently candidate for surgery.
   -Unable to place NGT given head position
   -G tube to gravity per surgery
   -f/u KUB
   # Sacral Decubitus Ulcer:  most likely source of GPC bacteremia given
   frank purulence, seen by wound consult who recommended surgical
   debridement.
   - f/u cx and gram stain
   - Continue vanc/zosyn/levo
   -Considering Plastics consult, but will hold for now as would likely
   not tolerate debridement
   # Hx AFIB: Stable
   -Cont amio.
   # Nutrition: Will re-consult for resuming TFs
   # Access: Will have PICC placed, D/C femoral line afterwards
   ICU Care
   Nutrition:
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2106-5-10**] 01:00 AM
   Multi Lumen - [**2106-5-10**] 01:04 AM
   Arterial Line - [**2106-5-10**] 01:27 AM
   Prophylaxis:
   DVT:  Hep SQ [**Hospital1 **]
   Stress ulcer: IV PPI while tube feeds being held -> will transition to
   Pos once G tube working
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code, ethics consult in place
   Disposition:ICU

2106-05-14 07:45:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   [**2106-5-13**]
   Sputum with E. coli [**Last Name (un) 46**] to Zosyn -> D/C'd Levoflox
   Teleconference: DNR, will use fentanyl for pain prn
   Pastics consult: cont supportive care, bedside debridement
   Vanco changed to 1g q24
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2106-5-11**] 05:52 PM
   Vancomycin - [**2106-5-13**] 10:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-14**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-14**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37
C (98.6
   HR: 73 (63 - 77) bpm
   BP: 76/46(53) {0/0(0) - 0/0(0)} mmHg
   RR: 29 (21 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  2,874 mL
                                                                    867 mL
   PO:
             TF:
                                                                    898 mL
                                                                    311 mL
   IVF:
                                                                  1,456 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    235 mL
   Urine:
                                                                    700 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,174 mL
                                                                    632 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (328 - 378) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 188
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: ///24/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Normal, right sided weakness upper and lower extremities
   Labs / Radiology
   497 K/uL
   9.0 g/dL
   140 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.1 mEq/L
   19 mg/dL
   109 mEq/L
   140 mEq/L
   26.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2106-5-11**]  08:39 AM
                             [**2106-5-11**]  02:22 PM
                             [**2106-5-11**]  04:38 PM
                             [**2106-5-11**]  06:42 PM
                             [**2106-5-11**]  09:05 PM
                             [**2106-5-11**]  10:18 PM
                             [**2106-5-12**]  03:31 AM
                             [**2106-5-12**]  03:23 PM
                             [**2106-5-13**]  03:59 AM
                             [**2106-5-14**]  03:17 AM
   WBC
   15.6
   16.3
   12.0
   Hct
   25.6
   26.5
   26.9
   Plt
   447
   494
   497
   Cr
   0.4
   0.4
   0.5
   0.4
   0.4
   TCO2
   27
   27
   26
   27
   28
   Glucose
   96
   132
   180
   126
   140
   Other labs: PT / PTT / INR:14.0/46.2/1.2, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: none
   Microbiology: sputum- e.coli- [**Last Name (un) 46**] zosyn and bactrim otherwise
   resistant
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted with sepsis and respiratory
   failure, found to have large purulent sacral decubitus ulcer now with
   GPC bacteremia.
   .
   # Sepsis:  likely [**3-15**] GPC bacteremia with most likely source being her
   large purulent sacral decubitus ulcer.  Overall improving w/current
   regimen, wbc trending down and  she has successfully weaned off of
   pressor support.  Other potential source is aspiration pneumonia given
   multifocal infiltrates on chest ct and GNR
s in sputum.
   - Blood cx with coag neg staph
   - Sputum with GNR growing e.coli which is sensitive to zosyn and
   bactrim, currently on zosyn
   -Cont Vanco
   -Cont Zosyn to cover e,coli
   -Cont MAP>60, CVP 10-12
   -IVF prn
   -Trend WBC, fever curve, WBC improved, will monitor low grade fever and
   re-cx if spikes again.
    .
   # Resp failure: Most likely [**3-15**] sepsis vs acute aspiration.  She does
   have multifocal infiltrates on chest ct c/w aspiration pneumonia.
   -Cont vanc/zosyn/levo to cover for asp pna
   -Attempt to wean vent -> RSBI >100
    -ETT care
   - repeat ABG today
   -  pulm toilet
   .
   # Right sided weakness- no prior history of CVA, new on examination
   today, last CTH with no old ischemic changes
   - obtain non con CTH today
   .
   # Possible Partial SBO: No evidence of SBO currently.  Seen on CT
   abdomen however abdomen is soft with no evidence of discomfort.
   Surgery consulted on admission, no transition point and pt not
   currently candidate for surgery.
   -Unable to place NGT given head position
   -G tube to gravity per surgery
   -KUB with no obstruction
   .
   # Sacral Decubitus Ulcer:  most likely source of GPC bacteremia given
   frank purulence, seen by wound consult who recommended surgical
   debridement.
   - Continue vanc/zosyn/levo
   -s/p debridement, plastic to debride again today
   .
   # Hx AFIB: Stable
   -Cont amiodarone
   .
   # Nutrition: tube feedings, free H20 through tube
   .
   # Access: PICC
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-14**] 03:31 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-5-10**] 01:27 AM
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2106-05-15 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ABG 7.43/37/127
   CT head PFI: Somewhat limited study with:
   1. No acute intracranial abnormality.
   2. Generalized with more marked selective medial temporal atrophy, as
   may be seen with Alzheimer disease.
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-14**] 10:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-15**] 02:04 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-15**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 73 (64 - 78) bpm
   BP: 102/40(55) {89/33(47) - 120/54(70)} mmHg
   RR: 28 (12 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  2,350 mL
                                                                    435 mL
   PO:
             TF:
                                                                    966 mL
                                                                    284 mL
   IVF:
                                                                    874 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    260 mL
   Urine:
                                                                  1,000 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,350 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 358 (319 - 358) mL
   PS : 15 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 172
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.43/37/127/25/1
   Ve: 9.6 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Gen: Intubated eyes open to stimulation
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur
   Lungs: coarse vented breath sounds, decreased at the bases, no wheezing
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: large likely stage IV sacral decubitus ulcer on right buttocks
   with purulent drainage
   Labs / Radiology
   433 K/uL
   9.3 g/dL
   132 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   17 mg/dL
   106 mEq/L
   138 mEq/L
   28.0 %
   12.7 K/uL
        [image002.jpg]
                             [**2106-5-11**]  04:38 PM
                             [**2106-5-11**]  06:42 PM
                             [**2106-5-11**]  09:05 PM
                             [**2106-5-11**]  10:18 PM
                             [**2106-5-12**]  03:31 AM
                             [**2106-5-12**]  03:23 PM
                             [**2106-5-13**]  03:59 AM
                             [**2106-5-14**]  03:17 AM
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
   WBC
   15.6
   16.3
   12.0
   12.7
   Hct
   25.6
   26.5
   26.9
   28.0
   Plt
   447
   494
   497
   433
   Cr
   0.4
   0.5
   0.4
   0.4
   0.5
   TCO2
   27
   26
   27
   28
   25
   Glucose
   132
   180
   126
   140
   132
   Other labs: PT / PTT / INR:14.0/46.2/1.2, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Micro:
   [**5-10**] Sputum: [**Month/Year (2) 5551**] sensi to zosyn, bactrim
   .
   Imgaing:
   [**5-14**] Head CT:
   PFI: Somewhat limited study with:
   1. No acute intracranial abnormality.
   2. Generalized with more marked selective medial temporal atrophy, as
   may be
   seen with Alzheimer disease.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/sepsis: On admission she has respiratory failure
   and sepsis most likely [**3-15**] aspiration pneumonia given multifocal
   infiltrates on chest ct from admission.  Sputum with [**First Name9 (NamePattern2) 5551**] [**Last Name (un) 46**] to
   zosyn.  She continues to have high RSBI likely [**3-15**] combination of
   factors including poor respiratory mechanics due to severe
   kyphoscoliosis and contractures, pneumonia, dementia.  Possible
   contribution of sedatives to failure to wean.
   -Cont vanc/zosyn to cover for asp pna/hap for 14 day course
   -Attempt to wean vent -> RSBI >100
   -d/c standing sedation, will bolus with fentanyl prn try to hold versed
    -ETT care
   -  pulm toilet
   -will need to discuss decision about trach with family, likely would be
   very difficult based on kyphoscoliosis and head position.
    .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Sacral Decubitus Ulcer:  Likely stage IV, with frank purulence.  No
   evidence of bacteremia so far, one set of blood cultures with coag
   negative staph was likely a contaminant.  Plastics is now following and
   doing bedside debridement prn.
   - she is on vanc/zosyn for asp pna as above
   -f/u plastics reccs
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   .
   # Possible Partial SBO: No evidence of SBO currently.  Seen on CT
   abdomen however abdomen is soft with no evidence of discomfort.
   Surgery consulted on admission, no transition point and pt not
   currently candidate for surgery.   Abdominal exam stable, continues to
   be distended but soft and nontender with positive bowel sounds.  KUB
   without evidence of SBO.
   -continue tube feeds
   -increase bowel reg
   -d/c sedation as tolerated
   .
   # Hx AFIB: Stable
   -Cont amiodarone
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-14**] 03:31 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-5-10**] 01:27 AM -> plan to d/c aline today
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: heparin sq [**Hospital1 **]
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2106-05-15 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Desat same as yesterday, responded to chest PT and deep suctioning
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-14**] 10:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-15**] 02:04 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-15**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 73 (64 - 78) bpm
   BP: 102/40(55) {89/33(47) - 120/54(70)} mmHg
   RR: 28 (12 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  2,350 mL
                                                                    441 mL
   PO:
             TF:
                                                                    966 mL
                                                                    289 mL
   IVF:
                                                                    874 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    260 mL
   Urine:
                                                                  1,000 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,350 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 358 (319 - 358) mL
   PS : 15 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 172
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.43/37/127/25/1
   Ve: 9.6 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   433 K/uL
   9.3 g/dL
   132 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   17 mg/dL
   106 mEq/L
   138 mEq/L
   28.0 %
   12.7 K/uL
        [image002.jpg]
                             [**2106-5-11**]  04:38 PM
                             [**2106-5-11**]  06:42 PM
                             [**2106-5-11**]  09:05 PM
                             [**2106-5-11**]  10:18 PM
                             [**2106-5-12**]  03:31 AM
                             [**2106-5-12**]  03:23 PM
                             [**2106-5-13**]  03:59 AM
                             [**2106-5-14**]  03:17 AM
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
   WBC
   15.6
   16.3
   12.0
   12.7
   Hct
   25.6
   26.5
   26.9
   28.0
   Plt
   447
   494
   497
   433
   Cr
   0.4
   0.5
   0.4
   0.4
   0.5
   TCO2
   27
   26
   27
   28
   25
   Glucose
   132
   180
   126
   140
   132
   Other labs: PT / PTT / INR:14.0/46.2/1.2, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Imaging: [**2106-5-13**] CXR:
   ET tube is in the standard position. Moderate bilateral pleural
   effusions are
   unchanged and associated with adjacent atelectasis. Cardiac size is
   normal.
   The upper lungs are clear.
   Microbiology: [**5-13**] Sputum Cx: contaminated/cancelled
   4/2 Blood culture: pending
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-15**] 03:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-5-10**] 01:27 AM
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-05-16 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2106-5-15**] 10:00 AM
   D/C'd her fentanyl and midazolam given lack of BM and persistently high
   RSBI.
   Added lactulose to bowel reg
   Patient unable to provide history: intubated
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-15**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-16**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2106-5-16**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 76 (68 - 84) bpm
   BP: 100/33(49) {92/33(47) - 128/63(77)} mmHg
   RR: 27 (18 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  2,086 mL
                                                                    729 mL
   PO:
             TF:
                                                                    959 mL
                                                                    303 mL
   IVF:
                                                                    666 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                    795 mL
                                                                    360 mL
   Urine:
                                                                    795 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,291 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 448 (285 - 492) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opens eyes to speech
   Labs / Radiology
   528 K/uL
   9.0 g/dL
   122 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   15 mg/dL
   105 mEq/L
   138 mEq/L
   27.4 %
   12.7 K/uL
        [image002.jpg]
                             [**2106-5-11**]  06:42 PM
                             [**2106-5-11**]  09:05 PM
                             [**2106-5-11**]  10:18 PM
                             [**2106-5-12**]  03:31 AM
                             [**2106-5-12**]  03:23 PM
                             [**2106-5-13**]  03:59 AM
                             [**2106-5-14**]  03:17 AM
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
   WBC
   15.6
   16.3
   12.0
   12.7
   12.7
   Hct
   25.6
   26.5
   26.9
   28.0
   27.4
   Plt
   447
   494
   497
   433
   528
   Cr
   0.4
   0.5
   0.4
   0.4
   0.5
   0.4
   TCO2
   26
   27
   28
   25
   Glucose
   132
   180
   126
   140
   132
   122
   Other labs: PT / PTT / INR:14.0/46.2/1.2, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/sepsis: On admission she has respiratory failure
   and sepsis most likely [**3-15**] aspiration pneumonia given multifocal
   infiltrates on chest ct from admission.  Sputum with [**First Name9 (NamePattern2) 5551**] [**Last Name (un) 46**] to
   zosyn.  She continues to have high RSBI likely [**3-15**] combination of
   factors including poor respiratory mechanics due to severe
   kyphoscoliosis and contractures, pneumonia, dementia.  Possible
   contribution of sedatives to failure to wean.
   -Cont vanc/zosyn to cover for asp pna/hap for 14 day course
   -Attempt to wean vent -> RSBI >100
   -d/c standing sedation, will bolus with fentanyl prn try to hold versed
    -ETT care
   -  pulm toilet
   -will need to discuss decision about trach with family, likely would be
   very difficult based on kyphoscoliosis and head position.
    .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Sacral Decubitus Ulcer:  Likely stage IV, with frank purulence.  No
   evidence of bacteremia so far, one set of blood cultures with coag
   negative staph was likely a contaminant.  Plastics is now following and
   doing bedside debridement prn.
   - she is on vanc/zosyn for asp pna as above
   -f/u plastics reccs
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   .
   # Possible Partial SBO: No evidence of SBO currently.  Seen on CT
   abdomen however abdomen is soft with no evidence of discomfort.
   Surgery consulted on admission, no transition point and pt not
   currently candidate for surgery.   Abdominal exam stable, continues to
   be distended but soft and nontender with positive bowel sounds.  KUB
   without evidence of SBO.
   -continue tube feeds
   -increase bowel reg
   -d/c sedation as tolerated
   .
   # Hx AFIB: Stable
   -Cont amiodarone
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-15**] 03:06 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2106-05-17 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Added bronchodilators
   Maintained on pressure support
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-16**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-17**] 02:35 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-5-16**] 08:16 AM
   Fentanyl - [**2106-5-16**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-5-16**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-17**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 77 (71 - 84) bpm
   BP: 110/41(58) {93/33(47) - 130/56(70)} mmHg
   RR: 25 (19 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  2,877 mL
                                                                    989 mL
   PO:
             TF:
                                                                    807 mL
                                                                    307 mL
   IVF:
                                                                  1,260 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    305 mL
   Urine:
                                                                    860 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                    684 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 375 (245 - 375) mL
   PS : 15 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 128
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 11.8 L/min
   Physical Examination
   Gen: Intubated eyes open to stimulation
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur
   Lungs: coarse vented breath sounds, decreased at the bases, no wheezing
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: large stage IV sacral decubitus ulcer on right buttocks with
   purulent drainage
   Labs / Radiology
   518 K/uL
   8.4 g/dL
   121 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   14 mg/dL
   103 mEq/L
   136 mEq/L
   24.9 %
   11.6 K/uL
        [image002.jpg]
                             [**2106-5-11**]  09:05 PM
                             [**2106-5-11**]  10:18 PM
                             [**2106-5-12**]  03:31 AM
                             [**2106-5-12**]  03:23 PM
                             [**2106-5-13**]  03:59 AM
                             [**2106-5-14**]  03:17 AM
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
                             [**2106-5-17**]  04:40 AM
   WBC
   15.6
   16.3
   12.0
   12.7
   12.7
   11.6
   Hct
   25.6
   26.5
   26.9
   28.0
   27.4
   24.9
   Plt
   447
   494
   497
   433
   528
   518
   Cr
   0.4
   0.5
   0.4
   0.4
   0.5
   0.4
   0.4
   TCO2
   27
   28
   25
   Glucose
   132
   180
   126
   140
   132
   122
   121
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Microbiology: [**5-10**] Stool Cx: C diff neg
   [**5-12**] Femoral line tip: no growth
   [**5-11**] Blood Cx: no growth
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/sepsis: On admission she has respiratory failure
   and sepsis most likely [**3-15**] aspiration pneumonia given multifocal
   infiltrates on chest ct from admission.  Sputum with [**First Name9 (NamePattern2) 5551**] [**Last Name (un) 46**] to
   zosyn.  She continues to have high RSBI likely [**3-15**] combination of
   factors including poor respiratory mechanics due to severe
   kyphoscoliosis and contractures, pneumonia, dementia.  Possible
   contribution of sedatives to failure to wean.   However, RSBI cont to
   improve with the addition to bronchodilators.  E. coli is ESBL
   - D/C vanco/zosyn
   - Will add meropenem and discuss with ID re: double cover day 1 =
   [**2106-5-17**]
   -Attempt to wean vent -> RSBI 128 today
   -d/c standing sedation, will bolus with fentanyl prn try to hold versed
    -ETT care
   -  pulm toilet
   - Cont bronchodilators
   - will need to discuss decision about trach with family, likely would
   be very difficult based on kyphoscoliosis and head position.
    .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Sacral Decubitus Ulcer:  Likely stage IV, with frank purulence.  No
   evidence of bacteremia so far, one set of blood cultures with coag
   negative staph was likely a contaminant.  Plastics is now following and
   doing bedside debridement prn.
   - finished course of vanco/zosyn -> changing to meropenem given ESBL
   -f/u plastics reccs -> not surgical candidate
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   .
   # Hx AFIB: Stable
   -Cont amiodarone
   .
   # FEN: No evidence of partial SBO as previously thought.
   - Cont tube feeds and monitor lytes
   .
   # Consipation: Had many BMs yesterday after increasing bowel reg
   - Cont to monitor
   ICU Care
   Nutrition: tube feeds
   Fibersource HN (Full) - [**2106-5-15**] 03:06 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU for now

2106-05-18 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ID curbside on e.coli esbl: single [**Doctor Last Name **] meropenem
   plastics recs:none
   Doing well on pressure support
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-17**] 08:17 AM
   Vancomycin - [**2106-5-17**] 08:48 AM
   Meropenem - [**2106-5-18**] 04:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-17**] 08:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-18**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 73 (71 - 80) bpm
   BP: 113/46(62) {91/33(47) - 127/55(77)} mmHg
   RR: 24 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  2,479 mL
                                                                    481 mL
   PO:
             TF:
                                                                    964 mL
                                                                    305 mL
   IVF:
                                                                  1,214 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,022 mL
                                                                    409 mL
   Urine:
                                                                  1,022 mL
                                                                    409 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,457 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 357 (315 - 361) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 7.8 L/min
   Physical Examination
   Gen: Intubated eyes open to stimulation
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur
   Lungs: coarse vented breath sounds, decreased at the bases, no wheezing
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: clean dry bandage over site of stage IV sacral decub
   Labs / Radiology
   583 K/uL
   9.0 g/dL
   113 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   12 mg/dL
   102 mEq/L
   134 mEq/L
   26.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2106-5-11**]  10:18 PM
                             [**2106-5-12**]  03:31 AM
                             [**2106-5-12**]  03:23 PM
                             [**2106-5-13**]  03:59 AM
                             [**2106-5-14**]  03:17 AM
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
   WBC
   15.6
   16.3
   12.0
   12.7
   12.7
   11.6
   11.7
   Hct
   25.6
   26.5
   26.9
   28.0
   27.4
   24.9
   26.7
   Plt
   447
   494
   497
   433
   528
   518
   583
   Cr
   0.4
   0.5
   0.4
   0.4
   0.5
   0.4
   0.4
   0.4
   TCO2
   28
   25
   Glucose
   132
   180
   126
   140
   132
   122
   121
   113
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Microbiology: [**5-12**] Wound Cx: no growth
   [**5-10**] Sputum Cx: ESBL [**Month/Year (2) 5551**]
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/sepsis: On admission she has respiratory failure
   and sepsis most likely [**3-15**] aspiration pneumonia given multifocal
   infiltrates on chest ct from admission.  Sputum with [**First Name9 (NamePattern2) 5551**] [**Last Name (un) 46**] to
   zosyn.  She continues to have high RSBI likely [**3-15**] combination of
   factors including poor respiratory mechanics due to severe
   kyphoscoliosis and contractures, pneumonia, dementia.  Possible
   contribution of sedatives to failure to wean.   However, RSBI cont to
   improve with the addition to bronchodilators.  E. coli is ESBL
   - D/C vanco/zosyn
   - wean pressure support to [**11-15**]
   - give 5mg IV lasix
   - Will add meropenem and discuss with ID re: double cover day 1 =
   [**2106-5-17**]
   -Attempt to wean vent -> RSBI 128 today
   -d/c standing sedation, will bolus with fentanyl prn try to hold versed
    -ETT care
   -  pulm toilet
   - Cont bronchodilators
   - will need to discuss decision about trach with family, likely would
   be very difficult based on kyphoscoliosis and head position.
    .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Sacral Decubitus Ulcer:  Likely stage IV, with frank purulence.  No
   evidence of bacteremia so far, one set of blood cultures with coag
   negative staph was likely a contaminant.  Plastics is now following and
   doing bedside debridement prn.
   - finished course of vanco/zosyn -> changing to meropenem given ESBL
   -f/u plastics reccs -> not surgical candidate
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   .
   # Hx AFIB: Stable
   -Cont amiodarone
   .
   # FEN: No evidence of partial SBO as previously thought.
   - Cont tube feeds and monitor lytes
   .
   # Consipation: Had many BMs yesterday after increasing bowel reg
   - Cont to monitor
   ICU Care
   Nutrition: tube feeds
   Fibersource HN (Full) - [**2106-5-15**] 03:06 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU for now

2106-05-19 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Weaned vent to PS 5/5
   Gave 5mg IV lasix, put out 900ml
   Gave additional 5mg IV lasix this am [**5-19**]
   Patient unable to provide history: intubated
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-17**] 08:17 AM
   Vancomycin - [**2106-5-17**] 08:48 AM
   Meropenem - [**2106-5-19**] 04:18 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-18**] 08:22 AM
   Furosemide (Lasix) - [**2106-5-18**] 11:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-19**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 73 (72 - 83) bpm
   BP: 106/38(55) {98/37(52) - 146/72(90)} mmHg
   RR: 22 (20 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  2,182 mL
                                                                    591 mL
   PO:
             TF:
                                                                    962 mL
                                                                    297 mL
   IVF:
                                                                    640 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    250 mL
   Urine:
                                                                  1,920 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    262 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (314 - 378) mL
   PS : 15 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 8 L/min
   Physical Examination
   Gen: Intubated eyes open to stimulation
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur
   Lungs: coarse vented breath sounds, decreased at the bases, no wheezing
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: clean dry bandage over site of stage IV sacral decub
   Labs / Radiology
   570 K/uL
   8.3 g/dL
   99 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   14 mg/dL
   101 mEq/L
   135 mEq/L
   24.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2106-5-12**]  03:31 AM
                             [**2106-5-12**]  03:23 PM
                             [**2106-5-13**]  03:59 AM
                             [**2106-5-14**]  03:17 AM
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
   WBC
   15.6
   16.3
   12.0
   12.7
   12.7
   11.6
   11.7
   10.0
   Hct
   25.6
   26.5
   26.9
   28.0
   27.4
   24.9
   26.7
   24.5
   Plt
   447
   494
   497
   433
   528
   518
   583
   570
   Cr
   0.4
   0.5
   0.4
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   25
   Glucose
   132
   180
   126
   140
   132
   122
   121
   113
   99
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/sepsis: On admission she has respiratory failure
   and sepsis most likely [**3-15**] aspiration pneumonia given multifocal
   infiltrates on chest ct from admission.  Sputum with [**First Name9 (NamePattern2) 5551**] [**Last Name (un) 46**] to
   zosyn.  She continues to have high RSBI likely [**3-15**] combination of
   factors including poor respiratory mechanics due to severe
   kyphoscoliosis and contractures, pneumonia, dementia.  Possible
   contribution of sedatives to failure to wean.   However, RSBI cont to
   improve with the addition to bronchodilators.  E. coli is ESBL
   - D/C vanco/zosyn
   - wean pressure support to [**11-15**] -> [**6-15**] as tolerated
   - given 5mg IV lasix x2 with good effect, cont today goal neg 1L
   - Cont meropenem through [**5-24**] for 8 day course
   - Attempt to wean vent -> RSBI 84 today
   -d/c standing sedation, will bolus with fentanyl prn try to hold versed
    -ETT care
   -  pulm toilet
   - Cont bronchodilators
   - family meeting [**5-20**] to discuss re-intubation, trach
   - cont lasix 5mg IV to goal neg 500ml-1L.
    .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Sacral Decubitus Ulcer:  Likely stage IV, with frank purulence.  No
   evidence of bacteremia so far, one set of blood cultures with coag
   negative staph was likely a contaminant.  Plastics is now following and
   doing bedside debridement prn.
   - finished course of vanco/zosyn -> changed to meropenem given ESBL
   -f/u plastics reccs -> not surgical candidate
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   .
   # Hx AFIB: Stable
   -Cont amiodarone
   .
   # FEN: No evidence of partial SBO as previously thought.
   - Cont tube feeds and monitor lytes -> D/C free water flushes
   - Hold TFs tonight at MN for possible extubation tomorrow
   .
   # Consipation: Had many BMs yesterday after increasing bowel reg
   - Cont to monitor
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-19**] 02:44 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: heparin sq, boots
   Stress ulcer: HOB elevation, chlorhexidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2106-05-20 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Given lasix 5mg IV x2 with 700-1000ml output
   - Cont on [**11-15**] PS with good effect
   - Tube feeds held at midnight
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-5-17**] 08:17 AM
   Vancomycin - [**2106-5-17**] 08:48 AM
   Meropenem - [**2106-5-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-5-19**] 06:04 PM
   Heparin Sodium (Prophylaxis) - [**2106-5-19**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-20**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 73 (70 - 85) bpm
   BP: 98/37(51) {98/35(51) - 130/52(72)} mmHg
   RR: 26 (9 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,963 mL
                                                                    287 mL
   PO:
             TF:
                                                                    963 mL
                                                                     50 mL
   IVF:
                                                                    640 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    620 mL
   Urine:
                                                                  2,360 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -397 mL
                                                                   -333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 312 (312 - 343) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 7.2 L/min
   Physical Examination
   Gen: Intubated eyes open to stimulation
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur
   Lungs: coarse vented breath sounds, decreased at the bases, no
   wheezing, rhonchi b/l
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: clean dry bandage over site of stage IV sacral decub
   Labs / Radiology
   507 K/uL
   8.7 g/dL
   112 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.6 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   25.3 %
   9.0 K/uL
        [image002.jpg]
                             [**2106-5-12**]  03:23 PM
                             [**2106-5-13**]  03:59 AM
                             [**2106-5-14**]  03:17 AM
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
   WBC
   16.3
   12.0
   12.7
   12.7
   11.6
   11.7
   10.0
   9.0
   Hct
   26.5
   26.9
   28.0
   27.4
   24.9
   26.7
   24.5
   25.3
   Plt
   494
   497
   433
   528
   [**Telephone/Fax (2) 5651**]07
   Cr
   0.5
   0.4
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   25
   Glucose
   180
   126
   140
   132
   122
   121
   113
   99
   112
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Imaging: no new imaging
   Microbiology: [**2106-5-10**] Sputum Cx: ESBL [**Month/Day/Year 5551**]
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/sepsis: On admission she has respiratory failure
   and sepsis most likely [**3-15**] aspiration pneumonia given multifocal
   infiltrates on chest ct from admission.  Sputum with [**First Name9 (NamePattern2) 5551**] [**Last Name (un) 46**] to
   zosyn.  She continues to have high RSBI likely [**3-15**] combination of
   factors including poor respiratory mechanics due to severe
   kyphoscoliosis and contractures, pneumonia, dementia.  Possible
   contribution of sedatives to failure to wean.   However, RSBI cont to
   improve with the addition to bronchodilators.  E. coli is ESBL
   - wean pressure support to [**11-15**] -> [**6-15**] as tolerated
   - given 5mg IV lasix x2 with good effect, cont today goal neg 1L
   - Cont meropenem through [**5-24**] for 8 day course
   - Attempt to wean vent -> RSBI 108 today
   -d/c standing sedation, will bolus with fentanyl prn try to hold versed
   - CXR today given low grade fever and increased secretions, check urine
   and cx
    -ETT care
   -  pulm toilet
   - Cont bronchodilators
   - family meeting [**5-20**] to discuss re-intubation, trach
   - cont lasix 5mg IV to goal neg 500ml-1L.
    .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Sacral Decubitus Ulcer:  Likely stage IV, with frank purulence.  No
   evidence of bacteremia so far, one set of blood cultures with coag
   negative staph was likely a contaminant.  Plastics is now following and
   doing bedside debridement prn.
   - finished course of vanco/zosyn -> changed to meropenem given ESBL
   -f/u plastics reccs -> not surgical candidate
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   .
   # Hx AFIB: Stable
   -Cont amiodarone
   .
   # FEN: No evidence of partial SBO as previously thought.
   - Cont tube feeds and monitor lytes -> D/C free water flushes
   - Hold TFs tonight at MN for possible extubation tomorrow
   .
   # Consipation: Had many BMs yesterday after increasing bowel reg
   - Cont to monitor
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-19**] 02:44 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: heparin sq, boots
   Stress ulcer: HOB elevation, chlorhexidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2106-05-21 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2106-5-20**] 12:30 PM
   Bronchoscopy done, ETT advanced 2 cm, is now 22 at the lip.  Pt.
   received 25mcg Fentanyl for procedure.
   - had bronch to advance ETT
   - plastics intern to discuss with fellow on debridement
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-5-21**] 04:28 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2106-5-20**] 12:30 PM
   Furosemide (Lasix) - [**2106-5-20**] 04:49 PM
   Heparin Sodium (Prophylaxis) - [**2106-5-20**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-21**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.3
   HR: 76 (69 - 98) bpm
   BP: 94/33(48) {92/33(48) - 142/65(78)} mmHg
   RR: 31 (18 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,440 mL
                                                                    472 mL
   PO:
             TF:
                                                                    490 mL
                                                                    297 mL
   IVF:
                                                                    690 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    700 mL
   Urine:
                                                                  2,640 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,200 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (235 - 412) mL
   PS : 15 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 5.5 L/min
   Physical Examination
   Gen: Intubated eyes open to stimulation
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur
   Lungs: coarse vented breath sounds, decreased at the bases, no
   wheezing, rhonchi b/l
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: clean dry bandage over site of stage IV sacral decub
   Labs / Radiology
   507 K/uL
   8.7 g/dL
   112 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.6 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   25.3 %
   9.0 K/uL
        [image002.jpg]
                             [**2106-5-12**]  03:23 PM
                             [**2106-5-13**]  03:59 AM
                             [**2106-5-14**]  03:17 AM
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
   WBC
   16.3
   12.0
   12.7
   12.7
   11.6
   11.7
   10.0
   9.0
   Hct
   26.5
   26.9
   28.0
   27.4
   24.9
   26.7
   24.5
   25.3
   Plt
   494
   497
   433
   528
   [**Telephone/Fax (2) 5651**]07
   Cr
   0.5
   0.4
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   25
   Glucose
   180
   126
   140
   132
   122
   121
   113
   99
   112
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: Urinalysis: small blood, otherwise neg
   Imaging: [**5-20**] CXR: Tip of endotracheal tube at 6-7 cm above the carina.
   Recommend
   advancing the endotracheal tube for 2-3 cm for optimal placement.
   Microbiology: [**2106-5-20**] UCX: pending
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/sepsis: On admission she has respiratory failure
   and sepsis most likely [**3-15**] aspiration pneumonia given multifocal
   infiltrates on chest ct from admission.  Sputum with [**First Name9 (NamePattern2) 5551**] [**Last Name (un) 46**] to
   zosyn.  She continues to have high RSBI likely [**3-15**] combination of
   factors including poor respiratory mechanics due to severe
   kyphoscoliosis and contractures, pneumonia, dementia.  Possible
   contribution of sedatives to failure to wean.   However, RSBI cont to
   improve with the addition to bronchodilators.  E. coli is ESBL
   - wean pressure support to [**11-15**] -> [**6-15**] as tolerated
   - given 5mg IV lasix x2 with good effect, cont today goal neg 1L
   - Cont meropenem through [**5-24**] for 8 day course
   - Attempt to wean vent -> RSBI 108 today
   -d/c standing sedation, will bolus with fentanyl prn try to hold versed
   - CXR today given low grade fever and increased secretions, check urine
   and cx
    -ETT care
   -  pulm toilet
   - Cont bronchodilators
   - family meeting [**5-20**] to discuss re-intubation, trach
   - cont lasix 5mg IV to goal neg 500ml-1L.
    .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Sacral Decubitus Ulcer:  Likely stage IV, with frank purulence.  No
   evidence of bacteremia so far, one set of blood cultures with coag
   negative staph was likely a contaminant.  Plastics is now following and
   doing bedside debridement prn.
   - finished course of vanco/zosyn -> changed to meropenem given ESBL
   -f/u plastics reccs -> not surgical candidate
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   .
   # Hx AFIB: Stable
   -Cont amiodarone
   .
   # FEN: No evidence of partial SBO as previously thought.
   - Cont tube feeds and monitor lytes -> D/C free water flushes
   - Hold TFs tonight at MN for possible extubation tomorrow
   .
   # Consipation: Had many BMs yesterday after increasing bowel reg
   - Cont to monitor
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-19**] 02:44 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: heparin sq, boots
   Stress ulcer: HOB elevation, chlorhexidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2106-05-22 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   got 5mg IV lasix early this morning, no other events
   Patient unable to provide history: intubated
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-5-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2106-5-21**] 08:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-22**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.1
   HR: 73 (73 - 85) bpm
   BP: 106/34(50) {95/33(48) - 138/56(85)} mmHg
   RR: 26 (22 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,917 mL
                                                                    401 mL
   PO:
             TF:
                                                                    962 mL
                                                                    297 mL
   IVF:
                                                                    640 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    880 mL
   Urine:
                                                                  1,440 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    477 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 275 (244 - 320) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 6.7 L/min
   Physical Examination
   Gen: Intubated eyes open to stimulation
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur
   Lungs: coarse vented breath sounds, decreased at the bases, no
   wheezing, rhonchi b/l
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: clean dry bandage over site of stage IV sacral decub
   Labs / Radiology
   242 K/uL
   8.8 g/dL
   106 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.6 mEq/L
   16 mg/dL
   100 mEq/L
   135 mEq/L
   27.6 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-14**]  03:17 AM
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
                             [**2106-5-21**]  03:26 PM
                             [**2106-5-22**]  03:11 AM
   WBC
   12.0
   12.7
   12.7
   11.6
   11.7
   10.0
   9.0
   8.4
   Hct
   26.9
   28.0
   27.4
   24.9
   26.7
   24.5
   25.3
   27.6
   Plt
   497
   433
   528
   [**Telephone/Fax (3) **]
   507
   242
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.3
   TCO2
   25
   Glucose
   140
   132
   122
   121
   113
   99
   112
   109
   106
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Micro:
   Sputm [**5-21**]: NGTD
   Urine [**5-20**]: Negative
   IMAGES: NONE
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/sepsis: On admission she had respiratory failure
   and sepsis most likely [**3-15**] aspiration pneumonia given multifocal
   infiltrates on chest ct from admission.  Sputum with ESBL Ecoli.  She
   continues to have high RSBI likely [**3-15**] combination of factors including
   poor respiratory mechanics due to severe kyphoscoliosis and
   contractures, pneumonia, dementia, element of volume overload.
   - continue pressure support to [**11-15**]
   -continue to hold sedation
   - 5mg IV lasix  as tolerated for diuresis
   - Cont meropenem through [**5-24**] for 8 day course
   - daily RSBI
   - repeat sputum cx given persistent thick secretions from ET suctioning
   -> no microorganisms
   -  pulm toilet
   - Cont bronchodilators
   - family meeting planned to discuss re-intubation, trach
   .
   # Sacral Decubitus Ulcer:  stage IV, with frank purulence on
   admission.  No evidence of bacteremia so far, one set of blood cultures
   with coag negative staph was likely a contaminant.  Plastics is now
   following and doing bedside debridement prn.
   - finished course of vanco/zosyn -> changed to meropenem given ESBL
   -f/u plastics reccs -> not surgical candidate
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   -nutrition via tube feeds
   -has had good glycemic control
   .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Hx AFIB: Stable,  in sinus
   -Cont amiodarone
   .
   # Consipation: good stool output to lactulose as needed for goal bm
   every 2 days
   - Cont bowel reg, lactulose prn
   ICU Care
   Nutrition:
   Ensure Plus (Full) - [**2106-5-21**] 12:55 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. Respiratory failure
   persists. Await arrival of niece next week.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2106-5-22**] 14:47 ------

2106-05-22 10:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                   History obtained from Medical records
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-5-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-5-22**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-22**] 08:16 AM
   Other medications:
   amiodarone 200
   heparin 5000 [**Hospital1 **]
   chlorhexadine
   lansoprazole
   asa
   docuste
   senna
   meropenem
   albuterol inh
   neutraphos
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-22**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.6
   HR: 75 (73 - 85) bpm
   BP: 105/41(57) {95/33(48) - 138/56(85)} mmHg
   RR: 24 (24 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,917 mL
                                                                    667 mL
   PO:
             TF:
                                                                    962 mL
                                                                    429 mL
   IVF:
                                                                    640 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                  1,000 mL
   Urine:
                                                                  1,440 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    477 mL
                                                                   -333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (244 - 310) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, b/l upper extremity
   edema/anasarca
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   242 K/uL
   106 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.6 mEq/L
   16 mg/dL
   100 mEq/L
   135 mEq/L
   27.6 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-5-14**]  03:17 AM
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
                             [**2106-5-21**]  03:26 PM
                             [**2106-5-22**]  03:11 AM
   WBC
   12.0
   12.7
   12.7
   11.6
   11.7
   10.0
   9.0
   8.4
   Hct
   26.9
   28.0
   27.4
   24.9
   26.7
   24.5
   25.3
   27.6
   Plt
   497
   433
   528
   [**Telephone/Fax (3) **]
   507
   242
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.3
   TCO2
   25
   Glucose
   140
   132
   122
   121
   113
   99
   112
   109
   106
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   89 yo F kyphosis, aspiration pneumonia
   1. Aspiration pneumonia
    - remains intubated on minimal ventilator settings
    - unclear goals of care should she be extubated, waiting results of
   family meeting
    - cont intubation for now
    - cont [**Last Name (un) **] until [**5-24**]
   2. AFib
    - amiodarone
   3. Decubitus ulcer:
    - cont debridement, wound care
   4. FEN:
    - cont tube feeds at goal
   ICU Care
   Nutrition:
   Ensure Plus (Full) - [**2106-5-21**] 12:55 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 30 minutes

2106-05-23 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   I/Os running even throughout the day.  Given lasix 10mg IV x2
   Patient unable to provide history: intubated
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-5-23**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-5-22**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-22**] 08:16 AM
   Furosemide (Lasix) - [**2106-5-22**] 08:00 PM
   Fentanyl - [**2106-5-23**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-23**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 98 (70 - 98) bpm
   BP: 158/63(87) {95/30(45) - 158/75(87)} mmHg
   RR: 33 (23 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,692 mL
                                                                    411 mL
   PO:
             TF:
                                                                    962 mL
                                                                    249 mL
   IVF:
                                                                    540 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    380 mL
   Urine:
                                                                  2,960 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,268 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 374 (300 - 374) mL
   PS : 10 cmH2O
   RR (Spontaneous): 50
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 4.3 L/min
   Physical Examination
   Gen: Intubated eyes open to stimulation
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur
   Lungs: coarse vented breath sounds, decreased at the bases, no
   wheezing, rhonchi b/l
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: clean dry bandage over site of stage IV sacral decub
   Labs / Radiology
   451 K/uL
   8.8 g/dL
   116 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   15 mg/dL
   98 mEq/L
   136 mEq/L
   25.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
                             [**2106-5-21**]  03:26 PM
                             [**2106-5-22**]  03:11 AM
                             [**2106-5-23**]  02:50 AM
   WBC
   12.7
   12.7
   11.6
   11.7
   10.0
   9.0
   8.4
   8.8
   Hct
   28.0
   27.4
   24.9
   26.7
   24.5
   25.3
   27.6
   25.9
   Plt
   433
   528
   518
   583
   [**Telephone/Fax (2) 5716**]51
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   TCO2
   25
   Glucose
   132
   122
   121
   113
   99
   112
   109
   106
   116
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/sepsis: On admission she had respiratory failure
   and sepsis most likely [**3-15**] aspiration pneumonia given multifocal
   infiltrates on chest ct from admission.  Sputum with ESBL Ecoli.  She
   continues to have high RSBI likely [**3-15**] combination of factors including
   poor respiratory mechanics due to severe kyphoscoliosis and
   contractures, pneumonia, dementia, element of volume overload.
   - continue pressure support to [**11-15**]
   - continue to hold sedation
   - 5-10mg IV lasix  as tolerated for diuresis, goal 1 L negative
   - Cont meropenem through [**5-24**] for 8 day course
   - daily RSBI
   - repeat sputum cx given persistent thick secretions from ET suctioning
   -> no microorganisms
   -  pulm toilet
   - Cont bronchodilators
   - family meeting planned to discuss re-intubation, trach after weekend
   .
   # Fever: Spiked to 101 [**5-23**].  ? developing VAP vs multiresistant
   pathogens
   - Blood, urine, sputum cx
   - Cont Meropenem for aspiration PNA
   - Cont to follow
   .
   # Sacral Decubitus Ulcer:  stage IV, with frank purulence on
   admission.  No evidence of bacteremia so far, one set of blood cultures
   with coag negative staph was likely a contaminant.  Plastics is now
   following and doing bedside debridement prn.
   - finished course of vanco/zosyn -> changed to meropenem given ESBL
   -f/u plastics reccs -> not surgical candidate
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   -nutrition via tube feeds
   -has had good glycemic control
   .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Hx AFIB: Stable,  in sinus
   -Cont amiodarone
   .
   # Consipation: good stool output to lactulose as needed for goal bm
   every 2 days
   - Cont bowel reg, lactulose prn
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-23**] 05:44 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of the services provided. I agree with the note above,
   including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2106-5-23**] 17:58 ------

2106-05-23 09:43:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-5-23**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-5-22**] 08:00 PM
   Fentanyl - [**2106-5-23**] 01:00 AM
   Lansoprazole (Prevacid) - [**2106-5-23**] 07:54 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-23**] 07:54 AM
   Other medications:
   chlorhexadine
   lansoprazole
   colace, senna
   albuterol q 6
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-23**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 78 (70 - 98) bpm
   BP: 104/38(54) {95/30(45) - 158/75(87)} mmHg
   RR: 27 (23 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,692 mL
                                                                    658 mL
   PO:
             TF:
                                                                    962 mL
                                                                    383 mL
   IVF:
                                                                    540 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    460 mL
   Urine:
                                                                  2,960 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,268 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 280 (280 - 374) mL
   PS : 10 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, b/l contractures
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   451 K/uL
   116 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   15 mg/dL
   98 mEq/L
   136 mEq/L
   25.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2106-5-14**]  10:50 AM
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
                             [**2106-5-21**]  03:26 PM
                             [**2106-5-22**]  03:11 AM
                             [**2106-5-23**]  02:50 AM
   WBC
   12.7
   12.7
   11.6
   11.7
   10.0
   9.0
   8.4
   8.8
   Hct
   28.0
   27.4
   24.9
   26.7
   24.5
   25.3
   27.6
   25.9
   Plt
   433
   528
   518
   583
   [**Telephone/Fax (2) 5716**]51
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   TCO2
   25
   Glucose
   132
   122
   121
   113
   99
   112
   109
   106
   116
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo F with respiratory failure
   1. Respiratory failure:
    - cont ventilation for now, family meeting to discuss next steps
    - diuresing as needed
   2. Fevers:
    - pan culture
   3. FEN:
    - tube feeds at goal
   4. VAP:
    - cont [**Last Name (un) **], to end [**5-24**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-23**] 05:44 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 30 minutes

2106-05-24 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Given lasix 10mg IV x2, I/O even throughout the day
   - switched to SBT trial in AM
   - pan cx for temp 101 at 0800
   Patient unable to provide history: intubated
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-5-24**] 04:48 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-5-23**] 07:54 AM
   Furosemide (Lasix) - [**2106-5-23**] 11:13 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-23**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-24**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.8
C (98.2
   HR: 86 (73 - 86) bpm
   BP: 119/51(67) {104/36(53) - 145/62(83)} mmHg
   RR: 27 (24 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,742 mL
                                                                    473 mL
   PO:
             TF:
                                                                    962 mL
                                                                    299 mL
   IVF:
                                                                    640 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    530 mL
   Urine:
                                                                  1,660 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     82 mL
                                                                    -57 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 273 (230 - 288) mL
   PS : 8 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 129
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 8.8 L/min
   Physical Examination
   Gen: Intubated eyes open to stimulation
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur
   Lungs: coarse vented breath sounds, decreased at the bases, no
   wheezing, rhonchi b/l
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: clean dry bandage over site of stage IV sacral decub
   Labs / Radiology
   502 K/uL
   8.6 g/dL
   100 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.4 mEq/L
   17 mg/dL
   98 mEq/L
   137 mEq/L
   24.8 %
   8.6 K/uL
        [image002.jpg]
                             [**2106-5-15**]  04:51 AM
                             [**2106-5-16**]  04:55 AM
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
                             [**2106-5-21**]  03:26 PM
                             [**2106-5-22**]  03:11 AM
                             [**2106-5-23**]  02:50 AM
                             [**2106-5-24**]  05:00 AM
   WBC
   12.7
   12.7
   11.6
   11.7
   10.0
   9.0
   8.4
   8.8
   8.6
   Hct
   28.0
   27.4
   24.9
   26.7
   24.5
   25.3
   27.6
   25.9
   24.8
   Plt
   433
   528
   518
   583
   [**Telephone/Fax (3) 5732**]
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   Glucose
   132
   122
   121
   113
   99
   112
   109
   106
   116
   100
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:25/41, Alk Phos / T Bili:94/0.4,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Sputum [**5-21**]: rare GNR
   Sputum [**5-23**]: No micros
   Blood cx [**5-23**]: NGTD
   Urine cx [**5-23**]: NGTD
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia: On admission she had respiratory failure and
   sepsis most likely [**3-15**] aspiration pneumonia given multifocal
   infiltrates on chest ct from admission.  Sputum with ESBL Ecoli.  She
   continues to have high RSBI likely [**3-15**] combination of factors including
   poor respiratory mechanics due to severe kyphoscoliosis and
   contractures, pneumonia, dementia, element of volume overload.
   - continue pressure support to [**11-15**]
   - continue to hold sedation
   - 5-10mg IV lasix  as tolerated for diuresis, goal 1 L negative
   - Cont meropenem through [**5-24**] for 8 day course, will d/c abx today and
   monitor
   - daily RSBI, check SBT today and plan for possible extubation vs trach
   mid week, pending family meeting
   - repeat sputum cx given persistent thick secretions from ET suctioning
   -> no microorganisms
   -  pulm toilet
   - Cont bronchodilators
   .
   # Fever: Spiked to 101 [**5-23**].  ? developing VAP vs multiresistant
   pathogens
   - Blood, urine, sputum cx
   - monitor
   - completed 8 day course meropenem on [**2106-5-24**]
   .
   # Sacral Decubitus Ulcer:  stage IV, with frank purulence on
   admission.  No evidence of bacteremia so far, one set of blood cultures
   with coag negative staph was likely a contaminant.  Plastics is now
   following and doing bedside debridement prn.
   - finished course of vanco/zosyn -> changed to meropenem given ESBL
   -f/u plastics reccs -> not surgical candidate
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   -nutrition via tube feeds
   -has had good glycemic control
   .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Hx AFIB: Stable,  in sinus
   -Cont amiodarone
   .
   # Consipation: good stool output to lactulose as needed for goal bm
   every 2 days
   - Cont bowel reg, lactulose prn
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-24**] 06:40 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would add/emphasize
   the following points:
   [**Age over 90 **]F with acute resp failure presumed secondary to asp pneumonia and
   large purulent sacral decubitus ulcer.   Spiked to 101 o/n. cont w/
   lasix. SBT
 eval for extubation.  Fever though wbc nl and stable - ?
   new infection vs. development resistance.  Completed abx today. Pan cx,
   close monitoring.  Decubitus mgmt continues to be a significant issue.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2106-5-24**] 17:19 ------

2106-05-25 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ABG on 2 hours of 5/0 7.51/48/118/40
   Further lasix held given metabolic alkalosis
   TF's held after midnight in case of extubation
   Patient unable to provide history: intubated
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-5-24**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-5-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-24**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-25**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 73 (73 - 91) bpm
   BP: 113/38(54) {107/38(54) - 139/57(75)} mmHg
   RR: 28 (25 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,581 mL
                                                                    278 mL
   PO:
             TF:
                                                                    961 mL
                                                                    204 mL
   IVF:
                                                                    490 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    245 mL
   Urine:
                                                                  1,390 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 246 (246 - 344) mL
   PS : 8 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 5 cmH2O
   SpO2: 100%
   ABG: 7.51/48/118/33/13
   Ve: 7.1 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Gen: Intubated eyes open to stimulation
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur
   Lungs: coarse vented breath sounds, decreased at the bases, no
   wheezing, rhonchi b/l
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: clean dry bandage over site of stage IV sacral decub
   Labs / Radiology
   366 K/uL
   7.8 g/dL
   105 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.3 mEq/L
   21 mg/dL
   97 mEq/L
   135 mEq/L
   23.2 %
   5.2 K/uL
        [image002.jpg]
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
                             [**2106-5-21**]  03:26 PM
                             [**2106-5-22**]  03:11 AM
                             [**2106-5-23**]  02:50 AM
                             [**2106-5-24**]  05:00 AM
                             [**2106-5-24**]  12:11 PM
                             [**2106-5-25**]  03:12 AM
   WBC
   11.6
   11.7
   10.0
   9.0
   8.4
   8.8
   8.6
   5.2
   Hct
   24.9
   26.7
   24.5
   25.3
   27.6
   25.9
   24.8
   23.2
   Plt
   [**Telephone/Fax (2) 5752**]66
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   40
   Glucose
   121
   113
   99
   112
   109
   106
   116
   100
   105
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:19/37, Alk Phos / T Bili:112/0.3,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   LDH:241 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Sputum cx [**5-23**], [**5-25**]: No micros
   Urine cx [**5-23**]: NGTD
   Blood cx [**5-23**]: NGTD
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/Respiratory Failure: On admission she had
   respiratory failure and sepsis most likely [**3-15**] aspiration pneumonia
   given multifocal infiltrates on chest ct from admission.  Sputum with
   ESBL Ecoli.  She continues to have high RSBI likely [**3-15**] combination of
   factors including poor respiratory mechanics due to severe
   kyphoscoliosis and contractures, pneumonia, dementia, element of volume
   overload, though overall she has improved.  Would likely tolerate a
   higher RSBI in her.  Performed relatively well on [**Name (NI) 1324**] [**5-24**].
   - Continue pressure support to [**11-15**] as tolerated
   - continue to hold sedation
   - 5-10mg IV lasix  as tolerated for diuresis, goal 1 L negative
   - Cont meropenem through [**5-24**] for 8 day course, will d/c abx today and
   monitor
   - daily RSBI, check [**Month/Year (2) 1324**] today and plan for possible extubation vs trach
   mid week, pending family meeting
   - repeat sputum cx given persistent thick secretions from ET suctioning
   -> no microorganisms
   -  pulm toilet
   - Cont bronchodilators
   .
   # Fever: Spiked to 101 [**5-23**].  ? developing VAP vs multiresistant
   pathogens
   - Blood, urine, sputum cx, stool cx
   - monitor
   - completed 8 day course meropenem on [**2106-5-24**]
   .
   # Sacral Decubitus Ulcer:  stage IV, with frank purulence on
   admission.  No evidence of bacteremia so far, one set of blood cultures
   with coag negative staph was likely a contaminant.  Plastics is now
   following and doing bedside debridement prn.
   - finished course of vanco/zosyn -> changed to meropenem given ESBL
   -f/u plastics reccs -> not surgical candidate
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   -nutrition via tube feeds
   -has had good glycemic control
   .
   # Right sided weakness- no prior history of CVA, new on examination
   [**5-14**], CT head did not show any acute abnormality/ no ICH.
   -monitor symptoms
   -hold off on further imaging unless progression of symptoms
   .
   # Hx AFIB: Stable,  in sinus
   -Cont amiodarone
   .
   # Consipation: good stool output to lactulose as needed for goal bm
   every 2 days
   - Cont bowel reg, lactulose prn
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2106-05-25 10:51:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Pneumonia, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Stable overnight
   - Lasix held for alkalosis
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-5-24**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-5-25**] 08:00 AM
   Lansoprazole (Prevacid) - [**2106-5-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-25**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 82 (72 - 91) bpm
   BP: 126/48(100) {106/38(54) - 139/57(100)} mmHg
   RR: 35 (25 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,581 mL
                                                                    371 mL
   PO:
             TF:
                                                                    961 mL
                                                                    204 mL
   IVF:
                                                                    490 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    385 mL
   Urine:
                                                                  1,390 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                    -14 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 290 (246 - 344) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.51/48/118/33/13
   Ve: 5.4 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: Thin, contractures
   Eyes / Conjunctiva: No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   366 K/uL
   105 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.3 mEq/L
   21 mg/dL
   97 mEq/L
   135 mEq/L
   23.2 %
   5.2 K/uL
        [image002.jpg]
                             [**2106-5-17**]  04:40 AM
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
                             [**2106-5-21**]  03:26 PM
                             [**2106-5-22**]  03:11 AM
                             [**2106-5-23**]  02:50 AM
                             [**2106-5-24**]  05:00 AM
                             [**2106-5-24**]  12:11 PM
                             [**2106-5-25**]  03:12 AM
   WBC
   11.6
   11.7
   10.0
   9.0
   8.4
   8.8
   8.6
   5.2
   Hct
   24.9
   26.7
   24.5
   25.3
   27.6
   25.9
   24.8
   23.2
   Plt
   [**Telephone/Fax (2) 5752**]66
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   40
   Glucose
   121
   113
   99
   112
   109
   106
   116
   100
   105
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:19/37, Alk Phos / T Bili:112/0.3,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   LDH:241 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   [**Age over 90 **]F with resp failure presumed secondary to asp pneumonia and large
   purulent sacral decubitus ulcer.   Significant contractures
   contributing to restrictive, rapid shallow breathing pattern at
   baseline.  Pt not able to mobilize secretions well but currently
   requiring only infrequent suctioning for small amounts of sputum.
   Decubitus mgmt continues to be a significant issue.
   PNA
   -presumed secondary to aspiration
   -grew out esbl e. coli
 completed course on [**5-24**]
   -afebrile x 24hrs
   Respiratory failure
   -data indicates a RVD at baseline given contractures, rapid shallow
   breathing pattern in combination with inc CO2 and elevated bicarb
   indicating chronic process
   -did well on 2hr SBT 5/0 yesterday without worsening of CO2 and in fact
   devleoped mild alkalemia.
   -would recommend trial extubation since is at the two week mark of ETT
   and will require trache placement if fails extubation attempt.  Given
   contractures, difficult intubation so will need to involve anesthesia
   and probably place cook catheter or bougie catheter along with backup
   FOB setup for fiberoptic placement if catheters get dislodged.
   Sacral Decubitus Ulcer:
   -stage IV, with [**Month/Year (2) **] purulence on admission.
   -Plastics following and doing bedside debridement prn.
   -wound care per plastics recs
   -tight glycemic control
   .
   AFIB
   -presently in NSR
   -Cont amiodarone
   Addendum:
   Dr. [**First Name (STitle) **] just spoke with pt
s HCP
 plan is to extubate and
   aggressively medically manage.  However if patient fails, family does
   not want reintubation and trache.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2106-05-26 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2106-5-25**] 01:10 PM
   - Decision by family to extubate without re-intubation
   - Extubated, doing well
   - Restarted tube feeds
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-5-24**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-5-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-5-25**] 08:11 PM
   Morphine Sulfate - [**2106-5-25**] 09:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-26**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 71 (67 - 82) bpm
   BP: 106/40(56) {95/37(51) - 140/56(100)} mmHg
   RR: 26 (24 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                    784 mL
                                                                    498 mL
   PO:
             TF:
                                                                    484 mL
                                                                    303 mL
   IVF:
                                                                    240 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    180 mL
   Urine:
                                                                    720 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     64 mL
                                                                    318 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 290 (290 - 290) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 5.4 L/min
   Physical Examination
   Gen: Intubated eyes open to stimulation, appears comfortable
   HEENT: MMM, anicteric sclera, NC/AT
   Heart: RRR coarse 2/6 systolic murmur audible throughout the precordium
   Lungs: coarse vented breath sounds, decreased at the bases, no
   wheezing, rhonchi b/l
   Abd: soft, distended, no apparent tenderness, positive bowel sounds
   Ext: warm, 2+ DP pulses
   Skin: no rashes noted
   Back: clean dry bandage over site of stage IV sacral decub
   Labs / Radiology
   381 K/uL
   7.8 g/dL
   110 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.5 mEq/L
   20 mg/dL
   100 mEq/L
   138 mEq/L
   23.4 %
   5.1 K/uL
        [image002.jpg]
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
                             [**2106-5-21**]  03:26 PM
                             [**2106-5-22**]  03:11 AM
                             [**2106-5-23**]  02:50 AM
                             [**2106-5-24**]  05:00 AM
                             [**2106-5-24**]  12:11 PM
                             [**2106-5-25**]  03:12 AM
                             [**2106-5-26**]  03:36 AM
   WBC
   11.7
   10.0
   9.0
   8.4
   8.8
   8.6
   5.2
   5.1
   Hct
   26.7
   24.5
   25.3
   27.6
   25.9
   24.8
   23.2
   23.4
   Plt
   583
   570
   507
   [**Telephone/Fax (3) **]
   366
   381
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   TCO2
   40
   Glucose
   113
   99
   112
   109
   106
   116
   100
   105
   110
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:19/37, Alk Phos / T Bili:112/0.3,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   LDH:241 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Microbiology: [**5-25**] Sputum Cx:
     [**12-5**] PMNs and <10 epithelial cells/100X field.
    NO MICROORGANISMS SEEN.
   [**5-23**] Blood Cx: ngtd
   [**5-21**], [**5-23**] Sputum Cx:
    GRAM NEGATIVE ROD(S).    RARE GROWTH
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A/P:Ms. [**Known lastname 2930**] is a [**Age over 90 **] yo F admitted acute respiratory failure likely
   [**3-15**] aspiration pneumonia also found to have large purulent sacral
   decubitus ulcer.
   .
   #Aspiration pneumonia/Respiratory Failure: On admission she had
   respiratory failure and sepsis most likely [**3-15**] aspiration pneumonia
   given multifocal infiltrates on chest ct from admission.  Sputum with
   ESBL Ecoli.  She continues to have high RSBI likely [**3-15**] combination of
   factors including poor respiratory mechanics due to severe
   kyphoscoliosis and contractures, pneumonia, dementia, element of volume
   overload, though overall she has improved.  Would likely tolerate a
   higher RSBI in her.  Performed relatively well on [**Name (NI) 1324**] [**5-24**] on 5/0 for
   two hours.  Completed course of meropenam for ESBL pna on [**5-24**]
   -attempt to extubate today after talking with her niece, did well with
   2 hour [**Month/Year (2) **] yesterday at 5/0
   - continue to hold sedation
   - holding further diuresis given evidence of metabolic alkalosis on abg
   - monitor for signs of VAP
   - daily RSBI, check [**Month/Year (2) 1324**] today and plan for possible extubation vs trach
   mid week, pending family meeting
   -  pulm toilet
   - Cont bronchodilators
   .
   # Fever: Spiked to 101 [**5-23**].  ? developing VAP vs multiresistant
   pathogens.  No high spiking fevers in over 24 hours.
   - Blood, urine, sputum cx, stool cx
   - monitor
   - completed 8 day course meropenem on [**2106-5-24**]
   .
   # Sacral Decubitus Ulcer:  stage IV, with frank purulence on
   admission.  No evidence of bacteremia so far, one set of blood cultures
   with coag negative staph was likely a contaminant.  Plastics is now
   following and doing bedside debridement prn.
   - finished course of vanco/zosyn/meropenem given ESBL
   -f/u plastics reccs -> not surgical candidate
   -dressing changes [**Hospital1 **]-TID
   -continue KinAir mattress for pressure relief
   -nutrition via tube feeds
   -has had good glycemic control
   .
   # Hx AFIB: Stable,  in sinus
   -Cont amiodarone
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments: bowel regimen
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2106-05-26 10:16:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 Successfully extubated yesterday
   - TF restarted
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-5-24**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2106-5-25**] 09:11 PM
   Heparin Sodium (Prophylaxis) - [**2106-5-26**] 08:00 AM
   Lansoprazole (Prevacid) - [**2106-5-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2106-5-26**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 69 (67 - 81) bpm
   BP: 103/45(59) {95/37(51) - 140/56(74)} mmHg
   RR: 29 (24 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                    784 mL
                                                                    685 mL
   PO:
             TF:
                                                                    484 mL
                                                                    404 mL
   IVF:
                                                                    240 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    222 mL
   Urine:
                                                                    720 mL
                                                                    222 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     64 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: Thin, kyphosis, contractures
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   381 K/uL
   110 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.5 mEq/L
   20 mg/dL
   100 mEq/L
   138 mEq/L
   23.4 %
   5.1 K/uL
        [image002.jpg]
                             [**2106-5-18**]  04:22 AM
                             [**2106-5-19**]  03:48 AM
                             [**2106-5-20**]  04:26 AM
                             [**2106-5-21**]  03:26 PM
                             [**2106-5-22**]  03:11 AM
                             [**2106-5-23**]  02:50 AM
                             [**2106-5-24**]  05:00 AM
                             [**2106-5-24**]  12:11 PM
                             [**2106-5-25**]  03:12 AM
                             [**2106-5-26**]  03:36 AM
   WBC
   11.7
   10.0
   9.0
   8.4
   8.8
   8.6
   5.2
   5.1
   Hct
   26.7
   24.5
   25.3
   27.6
   25.9
   24.8
   23.2
   23.4
   Plt
   583
   570
   507
   [**Telephone/Fax (3) **]
   366
   381
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   TCO2
   40
   Glucose
   113
   99
   112
   109
   106
   116
   100
   105
   110
   Other labs: PT / PTT / INR:13.1/34.7/1.1, CK / CKMB /
   Troponin-T:40/17/0.27, ALT / AST:19/37, Alk Phos / T Bili:112/0.3,
   Amylase / Lipase:[**12-19**], Differential-Neuts:94.2 %, Band:0.0 %, Lymph:3.4
   %, Mono:1.9 %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Albumin:2.4 g/dL,
   LDH:241 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   [**Age over 90 **]F with resp failure presumed secondary to asp pneumonia and large
   purulent sacral decubitus ulcer.   Significant contractures
   contributing to restrictive, rapid shallow breathing pattern at
   baseline.  Pt not able to mobilize secretions well but currently
   requiring only infrequent suctioning for small amounts of sputum.
   Decubitus mgmt continues to be a significant issue.
   PNA
   -presumed secondary to aspiration
   -grew out esbl e. coli
 completed course on [**5-24**]
   -afebrile x 48hrs
   Respiratory failure
   -data indicates a RVD at baseline given contractures, rapid shallow
   breathing pattern in combination with inc CO2 and elevated bicarb
   indicating chronic process
   -did well on 2hr [**Month/Year (2) 1324**] 5/0 so extubated successfully extubated yesterday
   -breathing comfortably today
   -if decompensates not to be reintubated per family
   Sacral Decubitus Ulcer:
   -stage IV, with frank purulence on admission.
   -Plastics following and doing bedside debridement prn.
   -wound care per plastics recs
   -tight glycemic control
   AFIB
   -presently in NSR
   -Cont amiodarone
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-5-25**] 05:00 PM 39.[**Telephone/Fax (3) 5167**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-5-12**] 05:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: